US05006660
2-Bromo-1-acetylaminobenzene was synthesized in the usual manner from 2-bromoaniline. That is, 150 ml of acetonitrile was added to 25.0 g of 2-bromoaniline, then 15.1 ml of glacial acetic acid was added thereto, and the reaction mixture was heated under reflux for 2 hours. After bringing its temperature to room temperature, 300 ml of ethyl acetate was added thereto, and after the resulting mixture was washed with water twice, the solvent was distilled off, and recrystallization of the crude crystals from a hexane/ethyl acetate solvent mixture was carried out, to obtain 23.2 g (yield: 75%) of 2-bromo-1-acetylaminobenzene.

reactant | 2-bromoaniline | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | acetonitrile | 150 ml | C(C)#N | C2H3N
reactant | 2-bromoaniline | 25.0 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | acetic acid | 15.1 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 300 ml | C(C)(=O)OCC | C4H8O2
product | 2-bromo-1-acetylaminobenzene | 23.2 g, yield: 75% | BrC1=C(C=CC=C1)NC(C)=O | C8H8BrNO
